BSIM3 NMOS Test Circuit
* Basic BSIM3 NMOS transistor test

.model nmos3 nmos level=49 version=3.1
+ tox=5.15e-9 xj=1.0e-7 nch=1.7e17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0
+ lint=0 wint=0 mobmod=1 binunit=2 xl=0 xw=0 binflag=0
+ dwg=0 dwb=0

M1 d g s b nmos3 W=10u L=1u

VGS g 0 2.0
VDS d 0 3.0
VBS b 0 0.0
VS s 0 0.0

.OP
.DC VGS 0 3 0.1
.PRINT DC I(VDS) V(d) V(g) V(s)
.END